US05684185
1-Naphthylmethyltriphenylphosphonium chloride (R2 =1-naphthyl)
340 g (1.93 mol) of 1-chloromethylnaphthalene (Aldrich) are dissolved together with 505.7 g (1.93 mol) of triphenylphosphine in 2 l of acetonitrile. The mixture is subsequently boiled at reflux with stirring for 5 hours. The phosphonium chloride begins to precipitate out after about 2 hours. The mixture is left to cool at room temperature and the crystals are filtered off with suction.

reactant | 1-chloromethylnaphthalene | 1.93 mol, 340 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | triphenylphosphine | 1.93 mol, 505.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phosphonium chloride | [Cl-].[PH4+]
solvent | acetonitrile | 2 l | C(C)#N | C2H3N
product | 1-Naphthylmethyltriphenylphosphonium chloride | [Cl-].C1(=CC=CC2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H24P.ClH/c1-4-16-26(17-5-1)30(27-18-6-2-7-19-27,28-20-8-3-9-21-28)23-25-15-12-14-24-13-10-11-22-29(24)25;/h1-22H,23H2;1H/q+1;/p-1
